US07781440B2
(Compound No. 15 in Table 3) 8,8-Dimethyl-9-(2-oxo-2-phenyl-ethyl)-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
To a solution of 0.24 ml (3.3 mmol) of dimethyl sulfoxide in 3 ml of anhydrous dichloromethane at −780° C. was added 0.42 ml (2.93 mmol) of trifluoroacetic anhydride in 2 ml of anhydrous dichloromethane and the mixture allowed to stir at −78° C. for 20 min. 0.201 g (0.53 mmol) of 9-(2(S)-Hydroxy-2-phenyl-ethyl)-8,8-dimethyl-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one in 2 ml of anhydrous dichloromethane was added at −78° C. and stirring continued for 30 min. 0.62 ml (4.47 mmol) of triethylamine was added and the mixture allowed to stir at room temperature for 12 h. Water was added and the mixture extracted with ethyl acetate, the extracts were washed with a saturated aqueous solution of ammonium chloride, a saturated aqueous solution of sodium chloride, dried and evaporated to give crude product. Purification by chromatography on silica gel eluting with ethyl acetate gave 0.045 g (23%) of pure product. Mp.: 203-205° C.

reactant | dimethyl sulfoxide | 3.3 mmol, 0.24 ml | CS(=O)C | C2H6OS
reactant | trifluoroacetic anhydride | 2.93 mmol, 0.42 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 9-(2(S)-Hydroxy-2-phenyl-ethyl)-8,8-dimethyl-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.53 mmol, 0.201 g | O[C@H](CN1C(CCN2C1=NC(=CC2=O)C2=NC=NC=C2)(C)C)C2=CC=CC=C2 | C21H23N5O2
reactant | triethylamine | 4.47 mmol, 0.62 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 8,8-Dimethyl-9-(2-oxo-2-phenyl-ethyl)-2-pyrimidin-4-yl-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | 0.045 g, 23% | CC1(N(C=2N(C(C=C(N2)C2=NC=NC=C2)=O)CC1)CC(C1=CC=CC=C1)=O)C | C21H21N5O2
